US06849622B2
2.04 g of 60% sodium hydride was gradually added to 150 ml of a tetrahydrofuran solution containing 10.0 g of trans-4-(tert-butoxycarbonylamino)cyclohexanol and 7.35 g of 2-chloro-5-nitropyridine, and 30 mL of dimethylsulfoxide was further added thereto, and then, the mixture was stirred at room temperature for 1 day. The reaction mixture was poured into water and extracted with chloroform. The extract was washed with water and brine, dried over anhydrous sodium sulfate, and then, the solvent was removed under reduced pressure. The residue was applied to silica gel column chromatography (solvent: chloroform alone to chloroform-ethyl acetate (20:1)). The obtained powder crystals were suspended in ethyl acetate-hexane mixed solution and collected by filtration to obtain 12.20 g of trans-1-tert-butoxycarbonylamino-4-(5-nitro-2-pyridyloxy)cyclohexane. To 10 ml of an ethanol suspension containing 800 mg of this compound was added 2 ml of 2N hydrochloric acid-dioxane solution, and the mixture was stirred at room temperature for 18 hours. The precipitates were collected by filtration to obtain 568 mg of trans-4-(5-nitro-2-pyridyloxy)cyclohexylamine.hydrochloride (Reference Example 9-1 in Table 6).

reactant | sodium hydride | 2.04 g | [H-].[Na+]
reactant | tetrahydrofuran | 150 ml | O1CCCC1 | C4H8O
reactant | trans-4-(tert-butoxycarbonylamino)cyclohexanol | 10.0 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)O | C11H21NO3
reactant | 2-chloro-5-nitropyridine | 7.35 g | ClC1=NC=C(C=C1)[N+](=O)[O-] | C5H3ClN2O2
solvent | water | O | H2O
solvent | dimethylsulfoxide | 30 mL | CS(=O)C | C2H6OS
product | trans-1-tert-butoxycarbonylamino-4-(5-nitro-2-pyridyloxy)cyclohexane | 12.20 g | C(C)(C)(C)OC(=O)N[C@@H]1CC[C@H](CC1)OC1=NC=C(C=C1)[N+](=O)[O-] | C16H23N3O5
